Name:  ___.               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Advil / Naprosyn / Robitussin Night-Time Cold / Motrin
 
Attending: ___.
 
Chief Complaint:
Epistaxis and hematuria.
 
Major Surgical or Invasive Procedure:
None.
 
History of Present Illness:
Pt is a ___ male from ___ with history of Stage 
IIA NSCLC s/p resection in ___, who opted not to receive 
adjuvant chemotherapy at that time, now with local paratracheal 
node recurrence (and no evidence of distant recurrence) on 
concurrent cisplatin and etoposide and xrt presents to the ER 
with epistaxis.  History is obtained via interpreter phone but 
is complicated by patient not being frustrated and 
non-cooperative with questions.  He has a history of A flutter 
and is on Coumadin, which he says was increased one month ago by 
1mg to 4mg PO daily.  His INR last week was normal.  Per the ER 
note, he has noted hematuria for one day and intermittant 
epistaxis for the past 4 days.  He denies any medication 
changes, medical non-compliance, poor PO intake, or change in 
diet.
.
He denies any bloody stools at this time, although he has 
intermittently had blood with wiping, but this does not happen 
for several days. He denies any abdominal pain, shortness of 
breath. His chest pain is nonexertional, he relates this to his 
radiation therapy, it is relieved by pain medication.
.
Vitals in the ER: 97.6 65 191/58 16 98% RA.  On arrival to the 
floor, he states that he has a HA.  It is global and the same 
characteristics he has been having for years.  It is similar to 
his migraines and he attributes it to being annoyed with his 
time in the hospital.  No vision changes, not the worst of his 
life.   
.
Review of Systems:  
(+) Per HPI - unable to obtain secondary to patient being 
non-cooperative.
 
Past Medical History:
PAST ONCOLOGIC HISTORY:  
___: RU Lobectomy with adenocarcinoma measuring 4 cm and 
with intrapulmonary/hilar (N1) lymph nodes. Surgical margins 
were clear of carcinoma. T2aN1Mx adenocarcinoma. Also stage IIA 
nonsmall cell lung cancer. The tumor was EGFR wild-type. At this 
time patient declined adjuvant chemotherapy.
___: His CT Scan of chest from ___ did not show evidence 
of local recurrence or new lesions.
___: CT scan shows recurrence.  A biopsy showed evidence of 
recurrence of his prior nonsmall cell lung cancer. The specimen 
will be eventually sent for tumor genotype for EGFR plus KRAS 
mutations analysis, and ALK FISH.
___: PET/CT Scan: clear evidence of a 38 x 34 mm highly 
FDG-avid right paratracheal (4R) mass with possible invasion 
into the SVC.
- ___ - ___ Admitted for cycle 2 concurrent cisplatin and 
etoposide.
- ___ 5940 cGy  of 6660 cGy total dose of XRT to 
esophagus/lung.
.
PAST MEDICAL HISTORY:  
___ DISEASE: Diagnosed ___ Thyroid scan revealed 
homogenous increased uptake of 58%, consistent with Graves' 
disease. Previously on methimazole.
AFLUTTER: On coumadin
HERPES ZOSTER ___
COLONIC POLYPS ___
DUODENITIS ___
MIGRAINE HEADACHES
TOBACCO ABUSE
 
Social History:
___
Family History:
There is no lung cancer or other cancers known to him and his 
family.  He is an only child.
 
Physical Exam:
ADMISSION EXAM:
VS: T97.7  bp 174/105  HR 80  RR 16  SaO2 96 RA
GEN: Elderly awake, alert  
HEENT: EOMI, sclera anicteric, conjunctivae clear, OP moist and 
without lesion
NECK: Supple
CV: Reg rate, normal S1, S2. No m/r/g.
CHEST: Resp unlabored, no accessory muscle use.
ABD: Soft, NT, ND, bowel sounds present.
MSK: normal muscle tone and bulk.
EXT: No c/c, normal perfusion.
SKIN: No rash, warm skin.
NEURO: oriented x 3, normal attention, no focal deficits, intact 
sensation to light touch
PSYCH: normal thought content
 
Pertinent Results:
ADMISSION LABS:
___ 11:45AM   ___ ___
___ 11:45AM   PLT COUNT-208
___ 11:45AM   WBC-2.6*# RBC-4.14* HGB-12.3* HCT-37.5* 
MCV-91 MCH-29.7 MCHC-32.8 RDW-15.3
___ 11:45AM   T3-138 FREE T4-1.1
___ 11:45AM   TSH-0.87
___ 11:45AM   ALBUMIN-4.6 CALCIUM-9.7
___ 02:00PM   ___ PTT-84.0* ___
___ 02:00PM   PLT SMR-NORMAL PLT COUNT-231
___ 02:00PM   HYPOCHROM-1+ ANISOCYT-1+ POIKILOCY-1+ 
MACROCYT-1+ MICROCYT-1+ POLYCHROM-NORMAL OVALOCYT-1+ 
TEARDROP-OCCASIONAL
___ 02:00PM   WBC-2.7* RBC-4.19* HGB-12.6* HCT-37.9* MCV-91 
MCH-30.2 MCHC-33.3 RDW-15.7*
___ 02:00PM   WBC-2.7* RBC-4.19* HGB-12.6* HCT-37.9* MCV-91 
MCH-30.2 MCHC-33.3 RDW-15.7*
___ 02:00PM   cTropnT-<0.01
___ 02:00PM   estGFR-Using this
___ 02:00PM   GLUCOSE-71 UREA N-16 CREAT-0.7 SODIUM-141 
POTASSIUM-4.3 CHLORIDE-102 TOTAL CO2-27 ANION GAP-16
___ 04:45PM URINE  MUCOUS-RARE
___ 04:45PM URINE  RBC->182* WBC-0 BACTERIA-NONE YEAST-NONE 
EPI-0
___ 04:45PM URINE  BLOOD-LG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.5 
LEUK-NEG
___ 04:45PM URINE  COLOR-AMBER APPEAR-Clear SP ___
.
___ PET: IMPRESSION:
1. Marked decrease in size of FDG-avid right paratracheal lymph 
node to 13 x 7 mm from 38 x 34 mm on the prior study.
2. Low level FDG-avidity in the bilateral hilar lymph nodes may 
correspond to a reactive process.  Attention on follow-up 
advised.
3. No new metastatic disease identified.
.
___ CXR: IMPRESSION:  Stable exam with chronic emphysema 
and evidence of prior right upper lobe resection.
.
___ CT HEAD: PENDING.  PRELIM - negative.
.
DISCHARGE LABS:
___ 07:20AM BLOOD WBC-2.6* RBC-3.99* Hgb-12.2* Hct-35.0* 
MCV-88 MCH-30.6 MCHC-34.8 RDW-15.5 Plt ___
___ 07:20AM BLOOD ___ PTT-59.6* ___
___ 07:20AM BLOOD Glucose-99 UreaN-14 Creat-0.9 Na-142 
K-4.3 Cl-104 HCO3-29 AnGap-13
___ 07:20AM BLOOD Calcium-9.3 Phos-3.2 Mg-2.4
___ 11:45AM BLOOD 25VitD-15*
 
Brief Hospital Course:
___ man with Graves disease, atrial flutter, and relapsed lung 
cancer admitted for hematuria and epistaxis due to coagulopathy 
from supratherapeutic warfarin.  He was given vitamin K in the 
ED and his INR decreased from 8.5/15.7 to 3.3.  Hematuria then 
diminished and epistaxis resolved.  His chronic headache however 
had been worse than usual x3d.  CT head PRELIM was negative.  As 
an outpatient, warfarin was resumed at 3mg daily (down from 4mg 
daily).
.
# Coagulpathy: PTT elevated chronically due to lupus 
anticoagulant.  CT head looking for bleed.  Restarted warfarin 
at 3mg daily if head CT is negative.  F/U INR in several days.  
Outpatient F/U with Urology for hematuria.  He had a recent 
(___) prostate biopsy for an elevated PSA.  Biopsy was 
negative.
- PENDING urine culture.
- F/U Urology for hematuria.
.
# Atrial flutter: Restart warfarin now that INR is nearly 
therapeutic after vitamin K.  He may become subtherapeutic from 
the vitamin K, so INR will need to be rechecked in a couple days 
as an outpatient.  Continued outpatient metoprolol for rate 
control.
.
# Lung CA, relapsed: Finished chemo (cisplatin and etoposide 
concurrent with XRT) ___.  Radiation therapy given ___, 
last fraction.  Anti-emetics PRN.  Magic Mouth wash for 
mucositis.
.
# Neutropenia/anemia: Due to chemo.  Anemia mild, neutropenia 
moderately severe.  Neutropenic precautions.
.
# Graves disease: Methimazole on hold while on chemo due to 
expected chemo-induced myelosuppression.  TSH normal.
.
# HTN: Mild.  Continued metoprolol.
.
# Pain (headache): Acute on chronic.  Likely chronic migraine.  
CT head prelim negative.  Acetaminophen PRN.
.
# FEN: Regular diet.
.
# GI PPx: PPI with bleeding.  Bowel regimen.
.
# DVT PPx: Warfarin.
.
# Precautions: None.
.
# Lines: Peripheral IV.
.
# CODE: FULL.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ondansetron ___ mg PO Q8H:PRN nausea
2. Prochlorperazine ___ mg PO Q6H:PRN nausea
3. Metoprolol Succinate XL 100 mg PO DAILY
4. Warfarin 4 mg PO DAILY
5. Maalox/Diphenhydramine/Lidocaine ___ mL PO TID:PRN mouth 
pain
 
Discharge Medications:
1. Maalox/Diphenhydramine/Lidocaine ___ mL PO TID:PRN mouth 
pain 
2. Metoprolol Succinate XL 100 mg PO DAILY 
3. Prochlorperazine ___ mg PO Q6H:PRN nausea 
4. Ondansetron ___ mg PO Q8H:PRN nausea 
5. Acetaminophen 325-650 mg PO Q6H:PRN headache 
6. Docusate Sodium 100 mg PO BID:PRN Constipation 
7. Warfarin 3 mg PO DAILY 
RX *warfarin 1 mg 3 tablet(s) by mouth Daily Disp #*90 Tablet 
Refills:*1
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1. Hematuria (blood in urine).
2. Epistaxis (nose bleed).
3. Coagulopathy (blood too thin).
4. Lung cancer.
5. Headache.
6. Atrial flutter (abnormal/fast heart rate, reason you take 
warfarin).
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You were admitted to the hospital for hematuria (blood in the 
urine), a nose bleed, and coagulopathy (blood too thin) from 
warfarin (Coumadin).  It is not clear why the blood became too 
thin, but when you restart the warfarin at home, the dose should 
be decreased back to 3mg daily.  You must have the INR level 
checked in a few days.  While you were in the hospital, you were 
given vitamin K to reverse the warfarin (Coumadin), you had 
radiation therapy to complete treatment for the lung cancer, and 
you had a CT of the head to make sure there was no bleeding in 
the head.  The PRELIMINARY report of the head CT was normal.  
Please ask your physicians for the final report on the CT scan.
.
MEDICATION CHANGES: RESTART WARFARIN AT 3MG DAILY.
 
Followup Instructions:
___